*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2010-301
* Inductance = 0.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2010-301_freq port1 port2 PARAMS: Cpar=4.4pF Ind=0.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=110
+ R2=0.000852
+ C= {Cpar}
+ K1=0.000027
+ K2=0.053
+ K3= {Ind}
+ K4=0.00076
+ K5=0.000008
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=327.897795
.ends SER2010-301_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2010-301
* Inductance = 0.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2010-301_imp port1 port2 PARAMS: Cpar=4.32pF Ind=0.3uH
X1 port1 port2 Model1D PARAMS:
+ R1=110
+ R2=0.000852
+ C= {Cpar}
+ K1=0.000027
+ K2=0.053
+ K3= {Ind}
+ K4=0.00076
+ K5=0.000008
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=327.897795
.ends SER2010-301_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2010-501
* Inductance = 0.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2010-501_freq port1 port2 PARAMS: Cpar=8.06pF Ind=0.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=170
+ R2=0.000852
+ C= {Cpar}
+ K1=0.000066
+ K2=0.085
+ K3= {Ind}
+ K4=0.00123
+ K5=0.000006
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=288.389484
.ends SER2010-501_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2010-501
* Inductance = 0.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2010-501_imp port1 port2 PARAMS: Cpar=7.94pF Ind=0.5uH
X1 port1 port2 Model1D PARAMS:
+ R1=170
+ R2=0.000852
+ C= {Cpar}
+ K1=0.000066
+ K2=0.085
+ K3= {Ind}
+ K4=0.00123
+ K5=0.000006
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=288.389484
.ends SER2010-501_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2010-601
* Inductance = 0.6uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2010-601_freq port1 port2 PARAMS: Cpar=7.02pF Ind=0.6uH
X1 port1 port2 Model1A PARAMS:
+ R1=170
+ R2=0.000852
+ C= {Cpar}
+ K1=0.000048
+ K2=0.091
+ K3= {Ind}
+ K4=0.00135
+ K5=0.0000682
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=345.558942
.ends SER2010-601_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2010-601
* Inductance = 0.6uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2010-601_imp port1 port2 PARAMS: Cpar=6.88pF Ind=0.6uH
X1 port1 port2 Model1D PARAMS:
+ R1=170
+ R2=0.000852
+ C= {Cpar}
+ K1=0.000048
+ K2=0.091
+ K3= {Ind}
+ K4=0.00135
+ K5=0.0000682
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=345.558942
.ends SER2010-601_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2010-681
* Inductance = 0.68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2010-681_freq port1 port2 PARAMS: Cpar=8.77pF Ind=0.68uH
X1 port1 port2 Model1A PARAMS:
+ R1=190
+ R2=0.000852
+ C= {Cpar}
+ K1=0.00006
+ K2=0.105
+ K3= {Ind}
+ K4=0.00123
+ K5=0.0000062
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=323.474035
.ends SER2010-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2010-681
* Inductance = 0.68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2010-681_imp port1 port2 PARAMS: Cpar=8.67pF Ind=0.68uH
X1 port1 port2 Model1D PARAMS:
+ R1=190
+ R2=0.000852
+ C= {Cpar}
+ K1=0.00006
+ K2=0.105
+ K3= {Ind}
+ K4=0.00123
+ K5=0.0000062
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=323.474035
.ends SER2010-681_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2010-801
* Inductance = 0.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2010-801_freq port1 port2 PARAMS: Cpar=8.79pF Ind=0.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=173
+ R2=0.000852
+ C= {Cpar}
+ K1=0.00006
+ K2=0.098
+ K3= {Ind}
+ K4=0.00022
+ K5=3.15E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=348.052483
.ends SER2010-801_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2010-801
* Inductance = 0.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2010-801_imp port1 port2 PARAMS: Cpar=8.78pF Ind=0.8uH
X1 port1 port2 Model1D PARAMS:
+ R1=173
+ R2=0.000852
+ C= {Cpar}
+ K1=0.00006
+ K2=0.098
+ K3= {Ind}
+ K4=0.00022
+ K5=3.15E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=348.052483
.ends SER2010-801_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2010-901
* Inductance = 0.9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2010-901_freq port1 port2 PARAMS: Cpar=9.93pF Ind=0.9uH
X1 port1 port2 Model1A PARAMS:
+ R1=300
+ R2=0.000852
+ C= {Cpar}
+ K1=0.0001
+ K2=0.144
+ K3= {Ind}
+ K4=0.00102
+ K5=0.00000215
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=321.855204
.ends SER2010-901_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2010-901
* Inductance = 0.9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2010-901_imp port1 port2 PARAMS: Cpar=9.88pF Ind=0.9uH
X1 port1 port2 Model1D PARAMS:
+ R1=300
+ R2=0.000852
+ C= {Cpar}
+ K1=0.0001
+ K2=0.144
+ K3= {Ind}
+ K4=0.00102
+ K5=0.00000215
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=321.855204
.ends SER2010-901_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2010-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2010-102_freq port1 port2 PARAMS: Cpar=10.3pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=220
+ R2=0.000852
+ C= {Cpar}
+ K1=0.000045
+ K2=0.126
+ K3= {Ind}
+ K4=0.0076
+ K5=0.0000078
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=344.296707
.ends SER2010-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2010-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2010-102_imp port1 port2 PARAMS: Cpar=9.83pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=220
+ R2=0.000852
+ C= {Cpar}
+ K1=0.000045
+ K2=0.126
+ K3= {Ind}
+ K4=0.0076
+ K5=0.0000078
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=344.296707
.ends SER2010-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2010-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2010-122_freq port1 port2 PARAMS: Cpar=9.52pF Ind=1.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=350
+ R2=0.000852
+ C= {Cpar}
+ K1=0.000123
+ K2=0.141
+ K3= {Ind}
+ K4=0.00385
+ K5=0.00000517
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=352.835896
.ends SER2010-122_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2010-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2010-122_imp port1 port2 PARAMS: Cpar=9.35pF Ind=1.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=350
+ R2=0.000852
+ C= {Cpar}
+ K1=0.000123
+ K2=0.141
+ K3= {Ind}
+ K4=0.00385
+ K5=0.00000517
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=352.835896
.ends SER2010-122_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2010-202
* Inductance = 2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2010-202_freq port1 port2 PARAMS: Cpar=13.3pF Ind=2uH
X1 port1 port2 Model1A PARAMS:
+ R1=325
+ R2=0.000852
+ C= {Cpar}
+ K1=0.000035
+ K2=0.194
+ K3= {Ind}
+ K4=0.012
+ K5=0.00000838
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=403.864165
.ends SER2010-202_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2010-202
* Inductance = 2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2010-202_imp port1 port2 PARAMS: Cpar=12.86pF Ind=2uH
X1 port1 port2 Model1D PARAMS:
+ R1=325
+ R2=0.000852
+ C= {Cpar}
+ K1=0.000035
+ K2=0.194
+ K3= {Ind}
+ K4=0.012
+ K5=0.00000838
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=403.864165
.ends SER2010-202_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
